US08193228B2
TosMIC (154 g, 0.9 mol) was added to an ambient temperature, saturated solution of ammonia in methanol (7 L). After stirring at ambient temperature for 1 h, 3,3-dimethylpentanal (ca. 0.6 mol) was added over 20 min. After stirring at reflux for 3 h, the reaction mixture was poured into cold 1 N hydrochloric acid and washed with hexane. The aqueous layer was basified with 10 N aqueous sodium hydroxide and extracted with ether. The combined organic extracts were washed with brine, dried (magnesium sulfate), filtered and concentrated in vacuo. Chromatography over silica eluting with 5-10% methanol/methylene chloride afforded 4-(2,2-dimethylbutyl)-1H-imidazole.

reactant | TosMIC | 0.9 mol, 154 g | CC1=CC=C(C=C1)S(=O)(=O)C[N+]#[C-] | C9H9NO2S
reactant | ammonia | N | H3N
reactant | 3,3-dimethylpentanal | ca. 0.6 mol | CC(CC=O)(CC)C | C7H14O
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methanol | 7 L | CO | CH4O
product | 4-(2,2-dimethylbutyl)-1H-imidazole | CC(CC=1N=CNC1)(CC)C | C9H16N2
